US07294636B2
(S)-3-Phenyl-3-(4-methanesulfonylphenyl)propionaldehyde
To a solution of (S)-3-phenyl-3-(4-methanesulfonylphenyl)propan-1-ol (244 mg, 0.84 mmol) in DCM (5 mL) was added Dess-Martin periodinane (392 mg, 0.92 mmol) and the resulting mixture was stirred at room temperature for 1.5 h. The mixture was washed with 2M aqueous sodium hydroxide (2×10 mL), dried and evaporated to give the title compound.

reactant | (S)-3-phenyl-3-(4-methanesulfonylphenyl)propan-1-ol | 0.84 mmol, 244 mg | C1(=CC=CC=C1)[C@H](CCO)C1=CC=C(C=C1)S(=O)(=O)C | C16H18O3S
reactant | Dess-Martin periodinane | 0.92 mmol, 392 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-Phenyl-3-(4-methanesulfonylphenyl)propionaldehyde | C1(=CC=CC=C1)[C@H](CC=O)C1=CC=C(C=C1)S(=O)(=O)C | C16H16O3S
